US05629295
(3β,5α,11α,12β,25R)spirostan-3,11,12-triol
(3β,5α,25R)spirostan-3,12-diol-11-one was converted into the title compound via reduction with lithium and ammonia according to the procedure described in J. Am. Chem. Soc., 1953, 75, 1282.

reactant | (3β,5α,25R)spirostan-3,12-diol-11-one | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4C(C([C@]23C)O)=O)O)O[C@]12CC[C@@H](C)CO2 | C27H42O5
reactant | lithium | [Li] | Li
reactant | ammonia | N | H3N
product | (3β,5α,11α,12β,25R)spirostan-3,11,12-triol | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4[C@@H]([C@H]([C@]23C)O)O)O)O[C@]12CC[C@@H](C)CO2 | C27H44O5
